US04077977
A solution of 13.68 g of 9-anthroyl chloride in 30 ml of tetrahydrofuran is added at 10°-15° to a solution of 10 g of propargylamine in 60 ml of tetrahydrofuran. After stirring at room temperature for 4 hours, the solvent is removed and the residue is stirred with methylene chloride and 5% aqueous sodium bicarbonate solution. The methylene chloride layer is dried and concentrated to give 14.54 g of crude N-propargyl-9-anthramide as a solid. An analytical sample (ethanol) had a melting point of 201°-202°; H nmr spectrum: τ 1.5-2.8 (m, 9); 3.7 (broad, 1); 5.7 (d of d, 2) and 7.7 (τ, 2.5 Hz, 1).

reactant | 9-anthroyl chloride | 13.68 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)Cl | C15H9ClO
reactant | propargylamine | 10 g | C(C#C)N | C3H5N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-propargyl-9-anthramide | 14.54 g | C(C#C)NC(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C18H13NO
